US04130658
A mixture of 1.51 g of β-(3-methoxyphenyl)-ethylamine and 1.85 g of β-phenethyl bromide was heated to 70°-80° C. on a bath and then was progressively heated to 165° C. over 10 minutes. The mixture was held at 165° C. for 5 minutes and was then cooled. 50 ml of water and then 4 ml of concentrated ammonium hydroxide were added thereto and the mixture was extracted 3 times with 40 ml of methylene chloride. The combined organic extracts were washed with 100 ml of aqueous sodium chloride solution and was dried over magnesium sulfate and was filtered. The filtrate was evaporated to dryness to obtain 3.4 g of raw product which was chromatographed over silica gel. Elution was with a 9-1 chloroform-ethanol mixture and the homogenous fraction with an Rf = 0.45 was taken to obtain 1.2 g of N-phenethyl-3-methoxyphenethylamine in the form of a yellow oil.

reactant | β-(3-methoxyphenyl)-ethylamine | 1.51 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | β-phenethyl bromide | 1.85 g | C1=CC=C(C=C1)CCBr | C8H9Br
reactant | ammonium hydroxide | 4 ml | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | N-phenethyl-3-methoxyphenethylamine | 1.2 g | C(CC1=CC=CC=C1)NCCC1=CC(=CC=C1)OC | C17H21NO
